US07348354B2
The more nonpolar diastereoisomer of 4-dimethylamino-4-phenyl-cyclohexylamine (218 mg, 1.0 mmole) was added to a solution of [2-(5-fluoro-1H-indol-3-yl)-ethyl]-carbamic acid phenyl ester (298 mg, 1.0 mmole) in dioxane (20 ml). The batch was then refluxed for 8 h. Working up was performed by removing dioxane by distillation and diluting the batch with water (10 ml). The batch was adjusted to pH 11 with 5M NaOH and extracted with EE (3×20 ml). The organic phase was dried with Na2SO4 and evaporated. The more nonpolar diastereoisomer of 1-(4-dimethylamino-4-phenylcyclohexyl)-3-[2-(5-fluoro-1H-indol-3-yl)ethyl]urea was obtained after chromatography on silica gel with methanol as a colorless oil in a yield of 140 mg (33%).

reactant | 4-dimethylamino-4-phenyl-cyclohexylamine | 1.0 mmole, 218 mg | CN(C1(CCC(CC1)N)C1=CC=CC=C1)C | C14H22N2
reactant | [2-(5-fluoro-1H-indol-3-yl)-ethyl]-carbamic acid phenyl ester | 1.0 mmole, 298 mg | C1(=CC=CC=C1)OC(NCCC1=CNC2=CC=C(C=C12)F)=O | C17H15FN2O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 1-(4-dimethylamino-4-phenylcyclohexyl)-3-[2-(5-fluoro-1H-indol-3-yl)ethyl]urea | CN(C1(CCC(CC1)NC(=O)NCCC1=CNC2=CC=C(C=C12)F)C1=CC=CC=C1)C | C25H31FN4O
